US04960776
4-Phenyl-N-[2-(1-azetidinyl)ethyl]-1-piperazinecarboxamide.
Following the procedure of Example 5, N-(2-aminoethyl)azetidine and 1,1'-carbonyldiimidazole are reacted together in tetrahydrofuran and the product thereof is reacted further with 1-phenylpiperazine to give the title compound.

reactant | N-(2-aminoethyl)azetidine | NCCN1CCC1 | C5H12N2
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-phenylpiperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-Phenyl-N-[2-(1-azetidinyl)ethyl]-1-piperazinecarboxamide | C1(=CC=CC=C1)N1CCN(CC1)C(=O)NCCN1CCC1 | C16H24N4O
